US07723330B2
Step D: Preparation of 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorobenzenamine:
Prepared according to the procedure of Example 1, Step D, substituting 1-(4-methoxybenzyl)-4-(2-fluoro-4-nitrophenoxy)-3-methyl-1H-pyrazolo[3,4-b]pyridine (7.4 g, 18 mmol) for 1-(4-methoxybenzyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine, and substituting EtOAc for DCM during the workup. The product was obtained as a gum (7.2 g, 94%) and used in the next step without purification. 1H NMR (400 MHz, CDCl3) δ 8.25 (d, J=5 Hz, 1H), 7.30 (d, J=9 Hz, 2H), 7.00 (m, 1H), 6.82 (d, J=9 Hz, 2H), 6.54 (m, 1H), 6.48 (m, 1H), 6.16 (d, J=5 Hz, 1H), 5.55 (s, 2H), 3.83 (br s, 2H), 3.75 (s, 3H), 2.71 (s, 3H).

reactant | 1-(4-methoxybenzyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | COC1=CC=C(CN2N=CC=3C2=NC=CC3OC3=C(C=C(C=C3)[N+](=O)[O-])F)C=C1 | C20H15FN4O4
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorobenzenamine | 7.2 g, 94% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)C)C=C1 | C21H19FN4O2
